US06518265B1
4,4-Ethylenedioxy-1-piperidineacetonitrile
A solution of 10.0 g of 4-oxo-1-piperidineacetonitrile, 22.6 g of ethylene glycol and 0.62 g of anhydrous p-toluenesulfonic acid in 100 ml of toluene was refluxed for 6 hours with Dean-stark dehydrating apparatus. After cooling, the reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was dried, and the solvent was evaporated to give a pale brown liquid. The resulting liquid was purified by alumina column chromatography using ethyl acetate—n-heptane (1:3) as an eluting solvent to give 12.8 g of a colorless liquid.

reactant | 4-oxo-1-piperidineacetonitrile | 10.0 g | O=C1CCN(CC1)CC#N | C7H10N2O
reactant | ethylene glycol | 22.6 g | C(CO)O | C2H6O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.62 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4,4-Ethylenedioxy-1-piperidineacetonitrile | 12.8 g | C1OC2(CCN(CC2)CC#N)OC1 | C9H14N2O2
